US08791134B2
Dibutyl 1-methyl-4-nitrosopiperidin-4-yl phosphate was prepared from 1-methyl-piperidin-4-one oxime, lead tetraacetate and dibutyl phosphate using conditions of General Method 3. 1H NMR (360 MHz, chloroform-d) δ 4.03-4.17 (4H, m), 2.77-2.88 (2H, m), 2.27-2.40 (6H, m), 2.12-2.24 (4H, m), 1.59-1.83 (6H, m), 1.38 (4H, q, 7.2 Hz).

reactant | 1-methyl-piperidin-4-one oxime | CN1CCC(CC1)=NO | C6H12N2O
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | dibutyl phosphate | P(=O)(OCCCC)(OCCCC)[O-]
product | Dibutyl 1-methyl-4-nitrosopiperidin-4-yl phosphate | P(=O)(OCCCC)(OCCCC)OC1(CCN(CC1)C)N=O | C14H29N2O5P
